US06656953B2
4-Dimethylcarbamoyl-4-phenyl-piperidine-1-carboxylic Acid Tert-Butyl Ester
A 250 mL round-bottom flask was charged with acid (6.1 g; 20 mmol), PyBOP (10.4 g; 20 mmol), DMF (100 mL) and NMM (4.4 mL; 40 mmol). The reaction mixture was stirred at 20° C. for 15 min and then DMAP (240 mg; 2.0 mmol) and Me2NH (12.0 mL; 60.0 mmol) was added. The reaction mixture was stirred at 20° C. for 12 h. The reaction mixture was diluted with 1:1 MTBE/EtOAc (250 mL). The organic was washed with H2O (250 mL), saturated NaCl (250 mL), dried with MgSO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel hexanes/THF 3:1) to yield pure product (6.0 g; 90% yield). 1H-NMR (300 MHz) δ (ppm) 7.20-7.40 (m; 5H), 3.98 (d; 2H); 3.23 (t; 2H); 2.40-3.00 (bs; 6H); 2.35 (d; 2H); 1.90 (t; 2H); 1.40 (s; 9H). 13C-NMR (300 MHz) δ (ppm) 174.1; 155.3; 145.0; 129.3; 128.8; 127.0; 125.2; 79.6; 49.8; 41.6; 38.0; 35.6; 28.7.

reactant | PyBOP | 20 mmol, 10.4 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | NMM | 40 mmol, 4.4 mL | CN1CCOCC1 | C5H11NO
reactant | Me2NH | 60.0 mmol, 12.0 mL | N(C)C | C2H7N
reactant | MTBE EtOAc | 250 mL | CC(C)(C)OC.CCOC(=O)C
catalyst | DMAP | 2.0 mmol, 240 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-Dimethylcarbamoyl-4-phenyl-piperidine-1-carboxylic Acid Tert-Butyl Ester | 90% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)C(N(C)C)=O | C19H28N2O3
